US06350892B1
(2S, 4S)-1-N-Dodecyl-4-[4-(3-oxo-4,4,4-trifluorobut-1-yl)phenoxy]pyrrolidine-2-carboxylic Acid, Methyl Ester
(2S, 4S)-1-N-Dodecyl-4-[4-[3-hydroxy-4,4,4-trifluorobutyl]phenoxy]pyrrolidine-2-carboxylic Acid, Methyl Ester (425 mg, 0.825 mmol) was oxidized as described in the preparation of 4-[N-dodecyl-N-[2-[4-(3-oxo-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]amino]butanoic acid, ethyl ester and afforded the title compound (272 mg, 64%) as a pale yellow oil.

reactant | (2S, 4S)-1-N-Dodecyl-4-[4-[3-hydroxy-4,4,4-trifluorobutyl]phenoxy]pyrrolidine-2-carboxylic Acid, Methyl Ester | 0.825 mmol, 425 mg | C(CCCCCCCCCCC)N1[C@@H](C[C@@H](C1)OC1=CC=C(C=C1)CCC(C(F)(F)F)O)C(=O)OC | C28H44F3NO4
reactant | 4-[N-dodecyl-N-[2-[4-(3-oxo-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]amino]butanoic acid, ethyl ester | C(CCCCCCCCCCC)N(CCOC1=CC=C(C=C1)CCC(C(F)(F)F)=O)CCCC(=O)OCC | C30H48F3NO4
product | (2S, 4S)-1-N-Dodecyl-4-[4-(3-oxo-4,4,4-trifluorobut-1-yl)phenoxy]pyrrolidine-2-carboxylic Acid, Methyl Ester | 272 mg, 64% | C(CCCCCCCCCCC)N1[C@@H](C[C@@H](C1)OC1=CC=C(C=C1)CCC(C(F)(F)F)=O)C(=O)OC | C28H42F3NO4
